US05580883
To a suspension of 4-(4-nitro-2-methylphenyloxy)piperidine hydrochloride (7.5 g) in methylene chloride (30 ml) were added dropwise triethylamine (5.56 g) and di-tert-butyl dicarbonate (7.2 g) and the mixture was stirred with ice cooling for 10 minutes. To the reaction mixture was added water, which was extracted with methylene chloride (50 ml×3). The combined extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was washed with n-hexane to obtain 1-tert-butyloxycarbonyl-4-(4-nitro-2methylphenyloxy)piperidine (9.7 g) as yellow crystals, m.p. 82°-83° C.

reactant | 4-(4-nitro-2-methylphenyloxy)piperidine hydrochloride | 7.5 g | Cl.[N+](=O)([O-])C1=CC(=C(C=C1)OC1CCNCC1)C
reactant | triethylamine | 5.56 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 7.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-butyloxycarbonyl-4-(4-nitro-2methylphenyloxy)piperidine | 9.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
